US04093812
Add dropwise 292 ml of a 25% ammonia solution to a suspension of 513 g of 1-methoxycarbonyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-ethyleneacetal in 2000 ml of dimethylformamide and 250 ml water at 20° to 25° C within a period of approximately 20 minutes, whereupon the precipitate is dissolved. Then stir for a further 30 minutes. While cooling to a moderate extent, add approximately 1000 ml of 2N hydrochloric acid; a strongly acidic reaction is obtained. Stir for 2 hours at 30° C and add 1.7 kg of ice. Draw off the thrown-down precipitate under cold conditions and wash with water until neutral to obtain 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde [m.p. 187° to 187.5° C]with a yield of 96%.

reactant | ammonia | N | H3N
reactant | 1-methoxycarbonyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-ethyleneacetal | 513 g | C1COC(C=2C(=NN(C2)C(=O)OC)C=2OC(=CC2)[N+](=O)[O-])O1 | C12H11N3O7
reactant | hydrochloric acid | 2N, approximately 1000 ml | Cl | ClH
solvent | dimethylformamide | 2000 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde | yield of 96% | [N+](=O)([O-])C1=CC=C(O1)C1=NNC=C1C=O | C8H5N3O4
